US05661108
A stirred mixture of 2.7 grams (0.009 mole) of N-(2-methylpropyl)-3-ethoxycarbonylamino-4-fluoro-6-nitroaniline, 2.0 grams (0.036 mole) of iron powder, 15 mL of acetic acid, and 0.5 mL (0.009 mole) of concentrated hydrochloric acid in 75 mL of ethanol was heated at reflux for about five hours. The reaction mixture was then concentrated under reduced pressure to a residue, which was taken up in ethyl acetate and washed with aqueous solutions saturated with sodium bicarbonate and sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. NMR analysis of the residue indicated the presence of product and acetic acid. The residue was washed with several portions of an aqueous solution saturated with sodium bicarbonate, and then was extracted thoroughly with ethyl acetate. The combined extracts were dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 2.0 grams of 2-(2-methylpropylamino)-4-ethoxycarbonylamino-5-fluoroaniline.

reactant | N-(2-methylpropyl)-3-ethoxycarbonylamino-4-fluoro-6-nitroaniline | 0.009 mole, 2.7 grams | CC(CNC1=CC(=C(C=C1[N+](=O)[O-])F)NC(=O)OCC)C | C13H18FN3O4
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 0.009 mole, 0.5 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | iron | 0.036 mole, 2.0 grams | [Fe] | Fe
product | 2-(2-methylpropylamino)-4-ethoxycarbonylamino-5-fluoroaniline | 2.0 grams | CC(CNC1=C(N)C=C(C(=C1)NC(=O)OCC)F)C | C13H20FN3O2
